US08242153B2
To a solution of (S)-2,2-dimethyl-4-(2-phenoxy-ethyl)-oxazolidine-3-carboxylic acid tert-butyl ester (150 mg) in ethanol (3 ml) at room temperature was added rhodium on activated alumina (15 mg). The mixture was stirred under an atmosphere of hydrogen (1 atm) at room temperature for 16 h. The catalyst was removed by filtration and the filtrate was concentrated in vacuo to yield (S)-4-(2-cyclohexyloxy-ethyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester as a black oil (145 mg, 95%); MS (ISP): 328.4 ([M+H]+).

reactant | (S)-2,2-dimethyl-4-(2-phenoxy-ethyl)-oxazolidine-3-carboxylic acid tert-butyl ester | 150 mg | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1CCOC1=CC=CC=C1)(C)C | C18H27NO4
solvent | ethanol | 3 ml | C(C)O | C2H6O
catalyst | rhodium on activated alumina | 15 mg | O=[Al]O[Al]=O.[Rh]
product | (S)-4-(2-cyclohexyloxy-ethyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 145 mg, 95% | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1CCOC1CCCCC1)(C)C | C18H33NO4
